US04096100
Preparation of 1,5-bis(benzenesulfonyl) carbohydrazide
175.6 g (1.0 mole) of benzenesulfonyl chloride was added to a stirred mixture of 45 g (0.5 mole) carbohydrazide and 100 g sodium bicarbonate in 1000 ml ethanol in a 3 liter 3 neck flask. The mixture was heated to gentle reflux for six hours. The cooled mixture was filtered and the solid precipitate (containing the desired product along with sodium chloride) was washed with ethanol and dried. Yield: 207 g. This mixture was then suspended in water and stirred for 10 minutes. The insoluble solid was filtered off and washed well with water and dried. Yield: 120.5 g, m.p. 227° C (dec.)

reactant | benzenesulfonyl chloride | 1.0 mole, 175.6 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | carbohydrazide | 0.5 mole, 45 g | NNC(=O)NN | CH6N4O
reactant | sodium bicarbonate | 100 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 1,5-bis(benzenesulfonyl) carbohydrazide | C1(=CC=CC=C1)S(=O)(=O)NNC(=O)NNS(=O)(=O)C1=CC=CC=C1 | C13H14N4O5S2
